US08003649B2
A solution of 6-[(2R,5S)-4-benzyl-2,5-dimethylpiperazin-1-yl]-3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazine (6.1 g, 15.62 mmol) in ethanol (150 mL) and 5M hydrochloric acid (9.37 mL, 46.87 mmol) was hydrogenated over 10% palladium on charcoal (1 g, 9.40 mmol) under hydrogen at 1 atmosphere for 3 days. The catalyst was filtered off and the filtrate was evaporated. The residue was taken into DCM and washed with 2M aqueous K2CO3. The organic phase was dried over MgSO4 and evaporated. The crude product was purified by MPLC silica chromatography, elution gradient 2 to 5% methanolic ammonia in DCM. Product fractions were evaporated to near dryness and crystallised from ether to afford 6-[(2R,5S)-2,5-dimethylpiperazin-1-yl]-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine (1.430 g, 30.5%) as a white crystalline solid.

reactant | 6-[(2R,5S)-4-benzyl-2,5-dimethylpiperazin-1-yl]-3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazine | 15.62 mmol, 6.1 g | C(C1=CC=CC=C1)N1C[C@H](N(C[C@@H]1C)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F)C | C19H21F3N6
reactant | hydrochloric acid | 46.87 mmol, 5M, 9.37 mL | Cl | ClH
solvent | ethanol | 150 mL | C(C)O | C2H6O
catalyst | palladium on charcoal | 9.40 mmol, 1 g | [Pd] | Pd
product | 6-[(2R,5S)-2,5-dimethylpiperazin-1-yl]-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | 1.430 g, 30.5% | C[C@H]1N(C[C@@H](NC1)C)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C12H15F3N6
